US04931443
To 14 g of 4-oxo-4-[4-(4-(4-(3-methylphenyl)piperazin-1-yl)butyl)phenyl]butyric acid, 200 ml of ethanol is added. To this mixture, 3.1 g of hydroxylamine hydrochloride and 4.0 g of sodium hydrogencarbonate are further added, and this is followed by reflux with heating for 6 hours under stirring the mixture. After the completion of the reaction, the solvent is distilled off under reduced pressure. To this residue, water is added, and the crystals precipitated are collected by filtration to give 9.7 g of 4-hydroxyimino-4-[4-(4-(4-(3-methylphenyl)piperazin-1-yl)butyl)phenyl ]butyric acid having a melting point of 175° to 177° C.

reactant | 4-oxo-4-[4-(4-(4-(3-methylphenyl)piperazin-1-yl)butyl)phenyl]butyric acid | 14 g | O=C(CCC(=O)O)C1=CC=C(C=C1)CCCCN1CCN(CC1)C1=CC(=CC=C1)C | C25H32N2O3
reactant | hydroxylamine hydrochloride | 3.1 g | Cl.NO
reactant | sodium hydrogencarbonate | 4.0 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4-hydroxyimino-4-[4-(4-(4-(3-methylphenyl)piperazin-1-yl)butyl)phenyl ]butyric acid | 9.7 g | ON=C(CCC(=O)O)C1=CC=C(C=C1)CCCCN1CCN(CC1)C1=CC(=CC=C1)C | C25H33N3O3
